US08685977B2
5-chloro-4-[4-chloro-3-(trifluoromethyl)phenoxy]-2-fluoro-N-(methylsulfonyl)benzamide
To a stirred solution of 5-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid (Preparation 32, 219 mg, 0.58 mmol) in DCM (3 mL) were added EDCl (167 mg, 0.87 mmol) and DMAP (106 mg, 0.87 mmol) and the reaction stirred at room temperature for 30 minutes. Methanesulfonamide (83 mg, 0.87 mmol) was added and the stirring continued at room temperature for 16 hours. DCM (25 mL) and 2M aq. HCl (5 mL) were added and the two layers separated. The organic extract was washed with 2M aq. HCl (5 mL) and brine (10 mL), dried (MgSO4), filtered and the solvent removed in vacuo. The crude material was purified by silica gel column chromatography eluting with EtOAc:heptane:AcOH (50:50:0.5), followed by recrystallisation from hot IPA to yield the title compound (89 mg, 34%) as a white solid.

reactant | 5-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid | 0.58 mmol, 219 mg | ClC=1C(=CC(=C(C(=O)O)C1)F)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C14H6Cl2F4O3
reactant | EDCl | 0.87 mmol, 167 mg | CCN=C=NCCCN(C)C.Cl
reactant | Methanesulfonamide | 0.87 mmol, 83 mg | CS(=O)(=O)N | CH5NO2S
reactant | HCl | 2M, 5 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.87 mmol, 106 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-4-[4-chloro-3-(trifluoromethyl)phenoxy]-2-fluoro-N-(methylsulfonyl)benzamide | 89 mg, 34% | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C15H9Cl2F4NO4S
